US08217058B2
1-(2,6-Difluoro-4-nitrophenyl)-piperidin-4-one
To a mixture of 3,4,5-trifluoronitrobenzene (3.894 g, 0.022 mol) and 4-piperidone hydrochloride monohydrate (3.072 g, 0.020 mol) in chloroform (24 ml), was added triethylamine (8.3 ml, 0.06 mol) under stirring. The resulting mixture was heated and stirred at 70° C. for 7 h. After completion of the reaction (TLC), the solvent was evaporated under reduced pressure and the residue diluted with water (10 ml). The separated solid was filtered, washed with water (8 ml) followed by hexane (5 ml) to obtain yellow crystalline solid as a product, 4.8 g, 94% yield M.P.: 130-132° C.; MS: M+1=257 (MH+ 100%) for M.F.: C11H10F2N2O3

reactant | 3,4,5-trifluoronitrobenzene | 0.022 mol, 3.894 g | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | 4-piperidone hydrochloride monohydrate | 0.020 mol, 3.072 g | O.Cl.N1CCC(CC1)=O
reactant | triethylamine | 0.06 mol, 8.3 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 24 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2,6-Difluoro-4-nitrophenyl)-piperidin-4-one | 94% yield | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCC(CC1)=O | C11H10F2N2O3
